US04845118
2-(4-Methoxy-2-pyridylmethylsulfinyl)-1H-benzothieno[2,3-]imidazole
To a solution of 1 g of 2-(4-methoxy-2-picolylmercapto)-1H-benzothieno[2,3-d]imidazole in 75 ml of dichloromethane at room temperature was added 0.6 g of m-chloroperbenzoic acid and, after stirring for 20 minutes, saturated aqueous sodium bicarbonate solution was added, and the organic phase was separated off. After the solvent had been evaporated off under reduced pressure, crystallization was induced by treatment with a little ethyl acetate and diisopropyl ether. Colorless solid, decomposition above 90° C.

reactant | 2-(4-methoxy-2-picolylmercapto)-1H-benzothieno[2,3-d]imidazole | 1 g | COC1=CC(=NC=C1)CSC=1NC2=C(N1)SC1=C2C=CC=C1 | C16H13N3OS2
reactant | m-chloroperbenzoic acid | 0.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-(4-Methoxy-2-pyridylmethylsulfinyl)-1H-benzothieno[2,3-]imidazole | COC1=CC(=NC=C1)CS(=O)C=1NC2=C(N1)SC1=C2C=CC=C1 | C16H13N3O2S2
